US07645760B2
N-(5-Chloro-2-[(E)-3-[(2R,5S)-4-(4-fluorobenzyl)-2,5-dimethylpiperazin-1-yl]-3-oxopropenyl]-4-methoxyphenyl)-acetamide
(E)-3-(2-Acetylamino-4-chloro-5-methoxyphenyl)-acrylic acid (100 mg; 0.37 mmol), (2R,5S)-1-(4-fluorobenzyl)-2,5-dimethylpiperazine (Mavunkel, Babu J. et al., WO 00/71535) (83 mg; 0.37 mmol) and EDCl.HCl (85 mg, 0.44 mmol) were dissolved in DMF (3 ml) and stirred over night. The reaction mixture was evaporated, taken up in 2N Na2CO3 and extracted with EtOAc three times. The combined organic phases were evaporated and purified via chromatography (SiO2 acetone/hexanes 3/7 to 4/6) to yield the title compound as colorless crystals (97 mg; 55%).

reactant | (E)-3-(2-Acetylamino-4-chloro-5-methoxyphenyl)-acrylic acid | 0.37 mmol, 100 mg | C(C)(=O)NC1=C(C=C(C(=C1)Cl)OC)/C=C/C(=O)O | C12H12ClNO4
reactant | (2R,5S)-1-(4-fluorobenzyl)-2,5-dimethylpiperazine | 0.37 mmol, 83 mg | FC1=CC=C(CN2[C@@H](CN[C@H](C2)C)C)C=C1 | C13H19FN2
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 0.44 mmol, 85 mg | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-(5-Chloro-2-[(E)-3-[(2R,5S)-4-(4-fluorobenzyl)-2,5-dimethylpiperazin-1-yl]-3-oxopropenyl]-4-methoxyphenyl)-acetamide | 97 mg, 55% | ClC=1C(=CC(=C(C1)NC(C)=O)\C=C\C(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)OC | C25H29ClFN3O3
